US08685959B2
Synthesis of ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[1,2,3]triazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 23)
Trifluoroacetic acid (0.5 mL) was added to a solution of (R)-tert-butyl 2-((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[d][1,2,3]triazol-6-yl)-2-methylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate (0.075 g, 0.13 mol) in dichloromethane (1.5 mL) and the mixture was stirred at room temperature for 1 h. Excess solvent was removed in vacuo, and the residue was diluted with dichloromethane (15 mL). The organic layer was neutralized with saturated aqueous sodium bicarbonate, and the aqueous layer was further extracted with dichloromethane (2×15 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 0-30% methanol in dichloromethane) to give the title compound as a white solid (0.022, 0.037 mol, 30%). 1H NMR (400 MHz, CDCl3) δ 7.87 (d, J=8.8 Hz, 1 H), 7.41 (dd, J=0.8, 0.8 Hz, 1 H), 7.15-7.14 (m, 2 H), 7.02 (dd, J=2.4, 9.2 Hz, 1 H), 6.53 (s, 1 H), 6.23 (q, J=7.2 Hz, 1 H), 4.90-4.84 (m, 1 H), 4.58-4.54 (m, 1 H), 4.32-4.28 (m, 1 H), 3.97-3.74 (m, 3 H), 3.56-3.44 (m, 3 H), 3.20-3.16 (m, 1 H), 2.97-2.94 (m, 1 H), 2.85-2.80 (m, 1 H), 2.14 (d, J=6.8 Hz, 3 H), 1.82-1.71 (m, 3 H), 1.47-1.25 (m, 2 H); MS: (ES) m/z calculated for C24H29Cl2N6O [M+H]+ 487.2 found 487.3.

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-tert-butyl 2-((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[d][1,2,3]triazol-6-yl)-2-methylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate | 0.13 mol, 0.075 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=NC2=C1C=C(C=C2)N2C[C@H](N(CC2)C(=O)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C | C29H36Cl2N6O3
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[1,2,3]triazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.037 mol, 30% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=NC2=C1C=C(C=C2)N2C[C@H](N(CC2)C(=O)[C@@H]2NCCC2)C | C24H28Cl2N6O
